US04918086
A mixture of 5.2 g of 2-(N-n-butyl-N-methylamino)-2-methylthio-1-nitroethylene, 2.84 g of pyridin-3-ylmethylamine and 3.69 g of disodium hydrogen phosphate in 30 ml of ethanol is refluxed for 1 hour. After removing the salt by filtration, the solvent is evaporated from the solution under vacuum and the residue is chromatographed through a column of silica gel with a 95/5 mixture of ethyl acetate/methanol. The product is eluated with ethylacetate/methanol (85/15). The solvent is removed by evaporation, affording 3.7 g of 2-(N-n-butyl-N-methylamino)-2-(pyridin-3-ylmethylamino)-1-nitroethylene as a viscous oil (Compound 3.2, Table 3).

reactant | 2-(N-n-butyl-N-methylamino)-2-methylthio-1-nitroethylene | 5.2 g | C(CCC)N(C)C(=C[N+](=O)[O-])SC | C8H16N2O2S
reactant | pyridin-3-ylmethylamine | 2.84 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | disodium hydrogen phosphate | 3.69 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(N-n-butyl-N-methylamino)-2-(pyridin-3-ylmethylamino)-1-nitroethylene | 3.7 g | C(CCC)N(C)C(=C[N+](=O)[O-])NCC=1C=NC=CC1 | C13H20N4O2
